US06019959
a) N-(Hexyl)-perfluorooctanesulfonamide
50.21 g (100 mmol) of perfluorooctanesulfonyl fluoride is added in drops to a mixture of 10.62 g (105 mmol) of triethylamine and 10.12 g (100 mmol) of benzylamine at 80° C. while being stirred vigorously. It is stirred for 2 days at 80° C., the reaction mixture is mixed with 300 ml of water and extracted three times with ethyl acetate. The combined organic extracts are dried on sodium sulfate, filtered and concentrated by evaporation. The residue is chromatographed on silica gel (mobile solvent: dichloromethane/methanol=4:1).

reactant | perfluorooctanesulfonyl fluoride | 100 mmol, 50.21 g | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C8F18O2S
reactant | triethylamine | 105 mmol, 10.62 g | C(C)N(CC)CC | C6H15N
reactant | benzylamine | 100 mmol, 10.12 g | C(C1=CC=CC=C1)N | C7H9N
solvent | water | 300 ml | O | H2O
product | N-(Hexyl)-perfluorooctanesulfonamide | C(CCCCC)NS(=O)(=O)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C14H14F17NO2S
